US06153212
Preparation of Bis(2-hydroxyethyl)terephthalate
1.4 moles of dimethyl terephthalate (277 g) and 7.2 moles of ethylene glycol (445 g) were weighed into a one-liter round-bottomed flask connected to a vacuum line. A catalytic amount of cobalt (II) acetate tetrahydrate (180 mg, 0.5 mole) and calcium acetate hydrate (90 mg, 0.4 mole) were added. The reaction mixture was heated at 160° C. in an oil bath under a mild vacuum.

reactant | dimethyl terephthalate | 1.4 moles, 277 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | ethylene glycol | 7.2 moles, 445 g | C(CO)O | C2H6O2
reactant | calcium acetate hydrate | 0.4 mole, 90 mg | O.C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
catalyst | cobalt (II) acetate tetrahydrate | 0.5 mole, 180 mg | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | Bis(2-hydroxyethyl)terephthalate | OCCOC(C1=CC=C(C(=O)OCCO)C=C1)=O | C12H14O6
